US05650510
A solution of acetyl chloride (43.2 g, 550 mmol) in 100 mL of dry ether was added dropwise over 1 hour to a solution of 1,3 dioxolane (37.1 g, 500 mmol) in 300 mL of ether containing a few crystals of zinc (II) chloride at room temperature under nitrogen. The reaction mixture was stirred at room temperature for an additional 2 hours and then concentrated in vacuo. The product was purified by distillation (0.6 mmHg, 56°-58° C.) to provide 67.9 g (89%) of 1-acetoxy-2-(chloromethoxy)ethane as a clear colorless oil. cf: Foye, W. O.; Kaufmann, J. M.; Kim, Y. H. J. Heterocyclic Chem. 1987, 19, 497.

reactant | acetyl chloride | 550 mmol, 43.2 g | C(C)(=O)Cl | C2H3ClO
reactant | 1,3 dioxolane | 500 mmol, 37.1 g | O1COCC1 | C3H6O2
reactant | ether | 100 mL | CCOCC | C4H10O
reactant | ether | 300 mL | CCOCC | C4H10O
catalyst | zinc (II) chloride | [Cl-].[Zn+2].[Cl-]
product | 1-acetoxy-2-(chloromethoxy)ethane | 67.9 g, 89% | C(C)(=O)OCCOCCl | C5H9ClO3
